US04302460
7-Bromo-3-methylsulphinyl-4-quinolone (1.07 g.) was dissolved in aqueous potassium hydroxide (0.3 g. potassium hydroxide in 30 ml. water). Dimethyl sulphate (0.4 ml.) was added and the mixture was stirred at room temperature for 3 hours. More dimethyl sulphate (0.5 ml.) was added and the mixture basified to pH 9.0 by the addition of aqueous KOH (0.4 N). The resulting mixture was stirred overnight. The solid product was collected by filtration and recrystallised from ethanol to give 7-bromo-1-methyl-3-methylsulphinyl-4-quinolone, m.p. 248°-249°.

reactant | 7-Bromo-3-methylsulphinyl-4-quinolone | 1.07 g | BrC1=CC=C2C(C(C=NC2=C1)S(=O)C)=O | C10H8BrNO2S
reactant | Dimethyl sulphate | 0.4 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | dimethyl sulphate | 0.5 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | potassium hydroxide | 30 ml, 0.3 g | [OH-].[K+]
solvent | KOH | 0.4 N | [OH-].[K+]
product | 7-bromo-1-methyl-3-methylsulphinyl-4-quinolone | BrC1=CC=C2C(C(=CN(C2=C1)C)S(=O)C)=O | C11H10BrNO2S
